US08492582B2
Trifluoroacetic acid (4.0 mL) was added to the obtained tert-butyl 4-(3-(tert-butoxycarbonyl)oxyphenyl)-2-(5-phenylpyridine-3-carboxamido)benzoate, followed by stirring at room temperature for 1 hour and 15 minutes. The solvent was evaporated under reduced pressure, and diisopropyl ether was added to the obtained residue. The solid substance was collected by filtration to obtain 70 mg of 4-(3-hydroxyphenyl)-2-(5-phenylpyridine-3-carboxamido)benzoic acid as a light yellow solid.

reactant | Trifluoroacetic acid | 4.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-(3-(tert-butoxycarbonyl)oxyphenyl)-2-(5-phenylpyridine-3-carboxamido)benzoate | C(C)(C)(C)OC(=O)OC=1C=C(C=CC1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1 | C34H34N2O6
product | 4-(3-hydroxyphenyl)-2-(5-phenylpyridine-3-carboxamido)benzoic acid | 70 mg | OC=1C=C(C=CC1)C1=CC(=C(C(=O)O)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1 | C25H18N2O4
